US04602019
2,4,4a,5-tetrahydro-7-(4-hydroxy-1-piperidinyl)-3H-indeno-[1,2-c]pyridazine-3-one;
2,4,4a,5-tetrahydro-7-(1,4-dioxa-8-azaspiro[4,5]dec-8-yl)-3H-indeno[1,2-c]pyridazin-3-one, and 2,5-dihydro-7-(1H-imidazol-1-yl)-3H-indeno[1,2-c]pyridazin-3-one.

reactant | 2,4,4a,5-tetrahydro-7-(1,4-dioxa-8-azaspiro[4,5]dec-8-yl)-3H-indeno[1,2-c]pyridazin-3-one | O1CCOC12CCN(CC2)C=2C=C1CC3C(=NNC(C3)=O)C1=CC2 | C18H21N3O3
reactant | 2,5-dihydro-7-(1H-imidazol-1-yl)-3H-indeno[1,2-c]pyridazin-3-one | N1(C=NC=C1)C=1C=C2CC=3C(=NNC(C3)=O)C2=CC1 | C14H10N4O
product | 2,4,4a,5-tetrahydro-7-(4-hydroxy-1-piperidinyl)-3H-indeno-[1,2-c]pyridazine-3-one | OC1CCN(CC1)C=1C=C2CC3C(=NNC(C3)=O)C2=CC1 | C16H19N3O2
